US07829560B2
3-Fluoro-N-(4-{[2-(2-methyl-4,5-dihydro-1 H-imidazol-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide (Compound B417).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-methyl-4,5-dihydro-1H-imidazole according to conditions described in general procedure C. 1H NMR (400 MHz, CDCl3) δ 1.63-1.70 (m, 9 H), 3.29 (t, J=5.5 Hz, 4H), 3.67 (t, J=8.8 Hz, 2 H), 3.83 (t, J=8.8 Hz, 2 H), 6.25-6.53 (m, 1 H), 6.77 (d, J=11.7 Hz, 1 H), 6.99 (d, J=8.0 Hz, 1 H), 7.25-7.31 (m, 2 H), 7.49-7.60 (m, 2 H), 7.88-7.93 (m, 2 H), 8.01 (d, J=8.0 Hz, 1 H), 8.17 (s, 1 H), 8.34-8.36 (m, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-methyl-4,5-dihydro-1H-imidazole | CC=1NCCN1 | C4H8N2
product | 3-Fluoro-N-(4-{[2-(2-methyl-4,5-dihydro-1 H-imidazol-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2C(=NCC2)C)C=C(C1)N1CCCCC1 | C30H29FN6O2
